Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Codeine
 
Attending: ___.
 
Chief Complaint:
s/p Blunt injuries from a lift falling on patient's head and 
knocking her over 
 
Major Surgical or Invasive Procedure:
Bedside irrigation and suturing of head/scalp lacerations.
 
History of Present Illness:
___ y/o healthy female, working as a ___, who 
was pushing a forklift that tipped and hit her on the head and 
caused her to fall backwords. She lost cpnsciousness. Brought to 
___ ED with extensive facial and scalp lacerations., also 
found to have left rib injuries. She was stable and alert and 
oriented on arrival, even though extremely anxious. 

 
Past Medical History:
none 
 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
PE: 
VS: 98.4  100  126/88  12 99% RA 
gen: NAD 
CV: RR, mild tachycardia 
pulm: CTA b/l 
abdomen: obese, soft, + BS, ND/NT 
extremities: no edema 
 
Pertinent Results:
___ 06:40PM BLOOD WBC-13.0* RBC-3.92* Hgb-11.5* Hct-33.8* 
MCV-86 MCH-29.3 MCHC-34.0 RDW-14.3 Plt ___
___ 05:35AM BLOOD WBC-6.3# RBC-3.32* Hgb-9.8* Hct-28.8* 
MCV-87 MCH-29.5 MCHC-33.9 RDW-14.6 Plt ___
___ 06:40PM BLOOD ___ PTT-24.6 ___
___ 06:40PM BLOOD Plt ___
___ 05:35AM BLOOD Plt ___
___ 06:51PM BLOOD Glucose-225* Lactate-3.1* Na-139 K-2.8* 
Cl-104 ___

imaging: 

___ 
CT head 
Right frontal and left posterior parietal scalp lacerations, but 

no acute intracranial pathology. No fractures. 

CT c-spine 
No traumatic injury to the cervical spine.

CT torso 
Nondisplaced left posterior seventh and eighth rib fractures. 
Displaced 
left transverse process fractures of L1 through L4. 

x-ray left knee
Left knee x-ray examination within normal limits.

 
Brief Hospital Course:
Patient was brought to the trauma bay following a injury that 
occured at her work. She was hit on the head by a forklift and 
fell as a consequence. She was alert on oriented on arrival. She 
was stable, yet extremely anxious. The CT of the head and 
C-spine revealed no injuries. The CT chest revealed left rib 
fractures and L1-L4 transverse process fractures. The CT of the 
abdomen and pelvis showed no injuried to the solid organs. 

Patient had approximatelly 15 cm laceration on her forhead and 
about 15-20 cm laceration on the occipital head surface. The 
laceration were repaired by plastics surgery in conjunction with 
our team. 

The pain control was achieved with PCA and later oral PO pain 
medications. Patient also reported left knee pain. The x-ray of 
the knee was normal. She was evaluated by physical therapy and 
was well enought not to need any rehabilitation services. 
Patient was on regular diet. 

By the time patient was discharged home, her pain was well 
controlled with oral pain medications, she was ambulating 
independently, she was urinating and tolerating diet. Her vital 
signs were all within normal limits. 
 
Medications on Admission:
none 
 
Discharge Medications:
1. morphine 15 mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
2. docusate sodium 50 mg/5 mL Liquid Sig: One (1) capsule PO BID 
(2 times a day) as needed for constipation.  
3. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO every four 
(4) hours as needed for pain/headache.  
4. Milk of Magnesia 400 mg/5 mL Suspension Sig: Thirty (30) ML's 
PO twice a day as needed for constipation.  
5. cyclobenzaprine 10 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) as needed for muscle spasm.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p Blunt trauma
Extensive head & scalp lacerations
L1-4 displaced transverseverse process fractures 
Left ___ non-displaced rib fractures  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital after being injured in a 
reported industrial accident. You sustained extensive 
lacerations to your head and scalped which were irrigated and 
closed with sutures.

You also sustained rib fractures on the left side of your chest; 
it is important that you cough, deep breathe and use the 
incentive spirometer 10x every hour that you are awake.

It was also noted that you fractured some of the bones in you 
lower back (lumbar region). These can be painful and will take 
time to heal as with your rib fractures will taek approxiamately 
___ weeks to heal.

Take your pain medication as prescribed; avoid becoming 
constipated by taking a stool softener and laxative.

Keep your wounds clean; you may shower but allow water to gently 
flow on your head. Pat the wounds dry and apply Bacitracin to 
the wound on your forehead.
 
Followup Instructions:
___